US08084644B2
N-ethoxycarbonyl-3-(phenylthio)acrylamide (1.20 g) was dissolved to acetonitrile (30 ml), then carbon tetrabromide (2.83 g) and triphenylphosphine (2.23 g) was added thereto and heat refluxing for three hours. The reaction mixture was concentrated under reduced pressure. The residue was subjected to silica gel column chromatography (hexane:ethyl acetate 20:1) to obtain light yellow oil. It was dissolved to DMF (10 ml), then sodium salt of thiophenol (0.63 g) was added thereto under ice cooling and stirred at room temperature for two hours. t-Butyl methyl ether (100 ml) was added to the reaction mixture, washed successively with 1N aqueous sodium hydroxide solution, water and aqueous saturated sodium chloride solution, dried over anhydrous sodium sulfate, filtered off inorganic salt and concentrated under reduced pressure. The residue was purified by medium pressure preparative high performance liquid chromatography to obtain phenyl N-ethoxycarbonyl-3-(phenylthio)thioacrylimidate (0.40 g) as light yellow oil.

reactant | N-ethoxycarbonyl-3-(phenylthio)acrylamide | 1.20 g | C(C)OC(=O)NC(C=CSC1=CC=CC=C1)=O | C12H13NO3S
reactant | carbon tetrabromide | 2.83 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 2.23 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium | [Na] | Na
reactant | thiophenol | 0.63 g | C1(=CC=CC=C1)S | C6H6S
solvent | t-Butyl methyl ether | 100 ml | COC(C)(C)C | C5H12O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | phenyl N-ethoxycarbonyl-3-(phenylthio)thioacrylimidate | 0.40 g | C(C)OC(=O)N=C(C=CSC1=CC=CC=C1)SC1=CC=CC=C1 | C18H17NO2S2
